US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1R,2R)-2-hydroxycyclohexyl]biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 2-bromo-N-((1R,2R)-2-hydroxycyclohexyl)benzenesulfonamide. MS (ESI): mass calcd. for C22H23FN4O3S, 442.15; m/z found, 443.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.37-8.30 (m, 2H), 8.21-8.16 (m, 1H), 7.97 (m, 1H), 7.68-7.62 (m, 1H), 7.60-7.54 (m, 1H), 7.40-7.32 (m, 3H), 3.26-3.18 (m, 1H), 2.87-2.79 (m, 1H), 1.94-1.77 (m, 2H), 1.67-1.50 (m, 2H), 1.26-1.09 (m, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-((1R,2R)-2-hydroxycyclohexyl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@H]1[C@@H](CCCC1)O | C12H16BrNO3S
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1R,2R)-2-hydroxycyclohexyl]biphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N[C@H]1[C@@H](CCCC1)O)F | C22H23FN4O3S
